US08314097B2
3′-Methylene-2′,3′,6,7,8,9-hexahydrospiro[imidazo[1,5-a]azepine-5,1′-indene]-5′-carbonitrile
To 4-(5-allyl-6,7,8,9-tetrahydro-5H-imidazo[1,5-a]azepin-5-yl)-3-bromobenzonitrile (0.275 g, 0.76 mmol) is added DME (3.0 mL). To this solution is added aqueous 2M sodium carbonate (1.5 ml, 3.0 mmol) followed by 4-fluorophenylboronic acid (0.269 g, 1.92 mmol). This mixture is transferred to a microwave safe vial. Tetrakis(triphenylphosphine) palladium(0) (0.04 g, 0.034 mmol) is added, and the vessel sealed. The mixture is stirred briefly (30 seconds) and place in a microwave for 25 minutes at 130° C. The vial is allowed to cool and unsealed. The mixture is extracted with ethyl acetate and washed with saturated aqueous sodium bicarbonate. The separated organic layer is concentrated in vacuo. The resulting material is subjected to two sequential chromatography procedures (1: Silica gel, 1:50 to 1:25 methanol:methylene chloride. 2: Reverse phase HPLC, gradient 10-95% Acetonitrile:Water, pH2, over 8 minutes) to give the product. MS (ESI) m/z 276 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm 1.47-1.61 (m, 1 H), 1.85-1.99 (m, 1 H), 2.01-2.16 (m, 3 H), 2.25-2.36 (m, 1 H), 2.63 (t, 1 H), 2.99 (d, J=16.4 Hz, 1 H), 3.10 (dd, J=15.5, 5.7 Hz, 1 H), 3.23-3.32 (m, 1 H), 5.21-5.25 (m, 1 H), 5.62-5.67 (m, 1 H), 6.50 (s, 1 H), 6.78 (s, 1 H), 7.54-7.58 (m, 1 H), 7.66-7.70 (m, 1 H), 7.88 (s, 1 H).

reactant | 4-(5-allyl-6,7,8,9-tetrahydro-5H-imidazo[1,5-a]azepin-5-yl)-3-bromobenzonitrile | 0.76 mmol, 0.275 g | C(C=C)C1(CCCCC=2N1C=NC2)C2=C(C=C(C#N)C=C2)Br | C18H18BrN3
reactant | sodium carbonate | 3.0 mmol, 2M, 1.5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluorophenylboronic acid | 1.92 mmol, 0.269 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
catalyst | Tetrakis(triphenylphosphine) palladium(0) | 0.034 mmol, 0.04 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | DME | 3.0 mL | COCCOC | C4H10O2
product | 3′-Methylene-2′,3′,6,7,8,9-hexahydrospiro[imidazo[1,5-a]azepine-5,1′-indene]-5′-carbonitrile | C=C1CC2(C3=CC=C(C=C13)C#N)CCCCC=1N2C=NC1 | C18H17N3
